US09376422B2
Step 9: Synthesis of 5-chloro-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-2-ethyl-3-[methyl(oxan-4-yl)amino]benzamide
To a solution of 5-chloro-2-ethyl-3-[methyl(oxan-4-yl)amino]benzoic acid (100 mg, 0.34 mmol) in DMF (2 ml) at room temperature under nitrogen was added HBTU (153 mg, 0.4 mmol) followed by N-ethyl-N-(propan-2-yl)propan-2-amine (88 μl, 0.5 mmol) and 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one (89%, 63 mg, 0.37 mmol). After stirring for 3 hours at room temperature EtOAc (30 ml) was added to the reaction mixture and this was then washed with deionized water (5 ml) followed by saturated NaHCO3(aq) (3×5 ml). The organic phase was dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by FCC (5 g silica, Isolute cartridge, gradient of eluents; 100% DCM to 96:4 DCM:MeOH) to give 94 mg (65%) of the title compound as an off-white solid. LC-MS 95%, m/z=432.1/434.1, 1H NMR (500 MHz, Chloroform-d) δ ppm 11.34 (s, 1H), 7.14-7.08 (m, 2H), 7.03 (d, J=2.0 Hz, 1H), 5.95 (s, 1H), 4.52 (d, J=5.8 Hz, 2H), 3.96 (d, J=11.2 Hz, 2H), 3.33 (td, J=11.4, 2.3 Hz, 2H), 2.96-2.85 (m, 1H), 2.79 (q, J=7.4 Hz, 2H), 2.58 (s, 3H), 2.39 (s, 3H), 2.23 (s, 3H), 1.73-1.62 (m, 4H), 1.05 (t, J=7.4 Hz, 3H).

reactant | 5-chloro-2-ethyl-3-[methyl(oxan-4-yl)amino]benzoic acid | 0.34 mmol, 100 mg | ClC=1C=C(C(=C(C(=O)O)C1)CC)N(C1CCOCC1)C | C15H20ClNO3
reactant | HBTU | 0.4 mmol, 153 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyl-N-(propan-2-yl)propan-2-amine | 0.5 mmol, 88 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one | 0.37 mmol, 63 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | 5-chloro-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-2-ethyl-3-[methyl(oxan-4-yl)amino]benzamide | 94 mg, 65% | ClC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C1)CC)N(C1CCOCC1)C | C23H30ClN3O3
